US08283354B2
A solution of propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (232 mg, 0.552 mmol) in CH2Cl2 (2 mL) was stirred under an N2 atmosphere. A 2.0 M HCl solution in ether (0.276 mL, 0.552 mmol) was added dropwise to this solution. After 10 minutes, ether (8 mL) was added until a precipitate formed, which was filtered and dried to obtain propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride (223 mg, 88%). LC/MS: m/z 421 (M+H)+ at 2.54 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.31 (d, J=8.7 Hz, 1H), 8.24 (dd, J=7.9, 1.4 Hz, 1H), 7.82 (s, 1H), 7.54-7.49 (m, 2H), 7.41-7.37 (m, 1H), 7.14 (d, J=8.1 Hz, 1H), 7.06-7.02 (m, 1H), 4.29-3.78 (m, 7H), 3.24-3.08 (m, 2H), 2.54 (s, 3H), 2.18-2.12 (m, 1H), 1.84-1.79 (m, 1H), 1.59-1.50 (m, 2H), 0.87 (t, J=7.4 Hz, 3H).

reactant | propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 0.552 mmol, 232 mg | C(CC)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C24H28N4O3
reactant | HCl | 2.0 M | Cl | ClH
reactant | ether | 0.552 mmol, 0.276 mL | CCOCC | C4H10O
reactant | ether | 8 mL | CCOCC | C4H10O
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride | 223 mg, 88% | Cl.C(CC)N(C(O)=O)C[C@@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | InChI=1S/C24H28N4O3.ClH/c1-3-11-28(24(30)31)15-17-10-12-27(14-17)23-18-9-8-16(2)13-20(18)25-22(26-23)19-6-4-5-7-21(19)29;/h4-9,13,17,29H,3,10-12,14-15H2,1-2H3,(H,30,31);1H/t17-;/m0./s1
